US06953857B2
(iii) 4-Iodo-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester
6.6 g of triphenylphosphine and 5 g of 4-Iodo-3-hydroxy-benzoic acid methyl ester were dissolved in 65 ml of anhydrous THF. The solution was cooled to 0 ° C. to 10° C. and a solution of 3.7 ml DEAD in 7.5 ml anhydrous THF was added dropwise over 20 min. The reaction was warmed to RT and stirred for 45 min. A solution of 2.8 ml 2-(2,4-Dichlorophenyl)-ethanol in 3 ml anhydrous THF was added with cooling. The reaction was stirred at RT for 3 h, then the solvents were removed under reduced pressure. The residue was treated with n-heptane:ethyl acetate 1:1. The filtrate was dried under reduced pressure. The product was purified by silica gel chromatography, eluting with n-heptane:ethyl acetate/4:1 to n-heptane:ethyl acetate/1:1.

reactant | triphenylphosphine | 6.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-Iodo-3-hydroxy-benzoic acid methyl ester | 5 g | COC(C1=CC(=C(C=C1)I)O)=O | C8H7IO3
reactant | DEAD | 3.7 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-(2,4-Dichlorophenyl)-ethanol | 2.8 ml | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-Iodo-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)I)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C16H13Cl2IO3
